US09210927B2
Step 1. (E)-5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)indoline (BI15)
To a stirred solution of (E)-tert-butyl-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)indoline-1-carboxylate (0.2 g, 0.4 mmol) in CH2Cl2 (10.0 mL) was added TFA (0.6 mL) and the reaction was stirred at ambient temperature for 2 h. The reaction mixture was diluted with CH2Cl2, washed with saturated aq NaHCO3, water and brine solution. The separated CH2Cl2 layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the crude product as a light brown gummy material which was used in the next step without further purification (0.12 g): 1H NMR (400 MHz, CDCl3) δ 7.33 (d, J=6.4 Hz, 2H), 7.21 (s, 1H), 7.02 (d, J=8.0 Hz, 1H), 6.57 (d, J=8.4 Hz, 1H), 6.49 (d, J=15.6 Hz, 1H), 6.21 (dd, J=15.6, 8.4 Hz, 1H), 4.07 (m, 1H), 3.61 (t, J=8.4 Hz, 2H), 3.05 (t, J=8.4 Hz, 2H); ESIMS m/z 389.89 ([M+H]+); IR (thin film) 3385, 1112, 816 cm−1.

reactant | (E)-tert-butyl-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)indoline-1-carboxylate | 0.4 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)F)Cl | C23H21Cl2F4NO2
reactant | TFA | 0.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (E)-5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)indoline | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2CCNC2=CC1)C(F)(F)F | C18H13Cl2F4N
